US06924400B2
(e) 1-(5 ′-Amino-2,2′-dimethylbiphenyl-4-yl)propan-1-one
2.2 g (7.8 mmol) of 1-(2,2′-dimethyl-5′-nitrobiphenyl-4-yl)-1-propanone are dissolved in a mixture of 80 ml of ethanol and 40 ml of water and 10 ml of acetic acid. The mixture is refluxed while 1.7 g (31 mmol) of iron powder are added. The medium is heated for 1 hour and then treated by addition of aqueous ammonia, cooled and filtered through Celite. The solution obtained is diluted in ethyl acetate and then washed with water, and the organic phase is dried and concentrated under reduced pressure. After chromatography on a column of silica (eluent: 60 heptane/40 ethyl acetate), a yellow oil is obtained (m=1.9 g; Y=96%).

reactant | 1-(2,2′-dimethyl-5′-nitrobiphenyl-4-yl)-1-propanone | 7.8 mmol, 2.2 g | CC1=C(C=CC(=C1)C(CC)=O)C1=C(C=CC(=C1)[N+](=O)[O-])C | C17H17NO3
reactant | ammonia | N | H3N
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | iron | 31 mmol, 1.7 g | [Fe] | Fe
product | 1-(5 ′-Amino-2,2′-dimethylbiphenyl-4-yl)propan-1-one | NC=1C=CC(=C(C1)C1=C(C=C(C=C1)C(CC)=O)C)C | C17H19NO
